US08492376B2
trans-8-Chloro-5-(2,2-difluoro-ethyl)-[4-(3-fluoro-pyridin-2-yl)-cyclohexyl]-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzo[e]azulene
A mixture of trans-8-chloro-1-[4-(3-fluoro-pyridin-2-yl)-cyclohexyl]-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzo[e]azulene (50.0 mg, 0.126 mmol), cesium carbonate (81.9 mg, 0.251 mmol) and 2,2-difluoroethyl trifluoromethanesulfonate (53.8 mg, 0.251 mmol) in acetonitrile (0.6 ml) was stirred at room temperature for 20 h. The reaction mixture was partitioned between a water-brine mixture (1:1) (2 ml) and ethyl acetate (5 ml). The layers were separated. The aqueous layer was extracted with two 5-ml portions of ethyl acetate. The combined organic layers were concentrated in vacuo. Preparative RP-HPLC with water (0.05% formic acid)/methanol as eluent gave the title compound (24 mg, 37%) as off-white solid. MS m/e: 462 ([M+H]+)

reactant | trans-8-chloro-1-[4-(3-fluoro-pyridin-2-yl)-cyclohexyl]-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzo[e]azulene | 0.126 mmol, 50.0 mg | ClC1=CC2=C(N3C(=NN=C3CNC2)[C@@H]2CC[C@H](CC2)C2=NC=CC=C2F)C=C1 | C21H21ClFN5
reactant | cesium carbonate | 0.251 mmol, 81.9 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,2-difluoroethyl trifluoromethanesulfonate | 0.251 mmol, 53.8 mg | FC(S(=O)(=O)OCC(F)F)(F)F | C3H3F5O3S
solvent | acetonitrile | 0.6 ml | C(C)#N | C2H3N
product | trans-8-Chloro-5-(2,2-difluoro-ethyl)-[4-(3-fluoro-pyridin-2-yl)-cyclohexyl]-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzo[e]azulene | 24 mg, 37% | ClC1=CC2=C(N3C(=NN=C3CN(C2)CC(F)F)[C@@H]2CC[C@H](CC2)C2=NC=CC=C2F)C=C1 | C23H23ClF3N5
